US07737295B2
To a solution of {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-nitro-5-(trifluoromethyl)benzyl]amine (428 mg, 0.81 mmol) and methyl chloroformate (126 μL, 1.39 mmol) in CH2Cl2 (10 mL) was added N,N-diisopropylethylamine (566 μL, 3.25 mmol). The reaction was stirred at room temperature for twenty minutes and then was poured into H2O (25 mL). The mixture was extracted with EtOAc (70 mL), and the organic extracts were washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 2% to 20% EtOAc/hexanes afforded methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-nitro-5-(trifluoromethyl)benzyl]carbamate. Rf=0.37 (25% EtOAc/hexanes). LCMS=585.3 (M+1)+. 1H NMR (C6D6, 500 MHz, 70° C.) δ 8.03 (s, 1H), 7.78 (s, 1H), 7.64 (s, 1H), 7.37 (s, 1H), 7.33 (d, J=8.0 Hz, 1H), 7.04-7.06 (m, 2H), 6.83 (s, 1H), 6.60 (d, J=8.4 Hz, 1H), 4.37 (bs, 2H), 3.93 (bs, 2H), 3.36 (s, 3H), 3.26 (s, 3H), 2.73 (m, 1H), 1.15 (d, J=6.8 Hz, 6H).

reactant | {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-nitro-5-(trifluoromethyl)benzyl]amine | 0.81 mmol, 428 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])OC | C26H24F6N2O3
reactant | methyl chloroformate | 1.39 mmol, 126 μL | ClC(=O)OC | C2H3ClO2
reactant | N,N-diisopropylethylamine | 3.25 mmol, 566 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | H2O | 25 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-nitro-5-(trifluoromethyl)benzyl]carbamate | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC)=O)CC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])OC | C28H26F6N2O5
